US06159990
To a well stirred suspension of LiAlH4 (4.7 g, 0.125 mol) in THF (120 mL) in a 3-necked round bottom flask fitted with a condenser and a dropping funnel, was added a solution of amino-(3,4-difluorophenyl)-acetic acid methyl ester (10.0 g, 0.05 mol) in THF (100 mL) dropwise at 0° C. The resulting greenish brown suspension was then heated to reflux for 2 h. The reaction mixture was cooled to 0° C. and then carefully quenched sequentially with 5 mL of water, 5 mL of 3N NaOH followed by 15 mL of water. The resulting suspension was filtered through a fritted glass funnel. To the residue was added 100 mL Et2O and the suspension was heated to reflux for 20 min. The suspension was filtered and was combined with the previous filtrate, dried over MgSO4, filtered and the solvent was removed in vacuo. 2-amino-2-(3,4-difluorophenyl)-ethanol was obtained as a yellow glassy syrup (8.6 g, 99%) which was used in the next step without further purification.

reactant | LiAlH4 | 0.125 mol, 4.7 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | amino-(3,4-difluorophenyl)-acetic acid methyl ester | 0.05 mol, 10.0 g | COC(C(C1=CC(=C(C=C1)F)F)N)=O | C9H9F2NO2
solvent | THF | 120 mL | C1CCOC1 | C4H8O
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 2-amino-2-(3,4-difluorophenyl)-ethanol | NC(CO)C1=CC(=C(C=C1)F)F | C8H9F2NO
